US07612075B2
4-[4-(6-Chloro-1H-benzoimidazol-2-ylmethyl)-2-oxo-piperidin-1-ylmethyl]-benzamidine
Hydrochloric acid is bubbled into an ice cooled solution of 4-[4-(6-chloro-1H-benzoimidazol-2-ylmethyl)-2-oxo-piperidin-1-ylmethyl]-benzonitrile (127 mg, 0.336 mmol) in 10 mL of methanol. The solution also contained 3Å molecular sieves. The reaction is stored at −30 for forty-eight hours. The methanol is condensed on the rotovap. Fresh methanol (15 mL) is added followed by a stream of ammonia gas. The reaction is heated to reflux for two and half hours. The reaction mixture is filtered at room temperature. Methanol is removed from the mother liquor. The resulting residue is purified by reverse phase HPLC (0-50% ACN/H2O). The product is isolated as a white solid with a melting point of 105-110° C. C21H22ClN5O MS m/z: 396,398. Anal. cald. for C21H22ClN5O.2C2HF3O2: C; 48.13; H, 3.88; N,11.22. Found: C, 45.05; H, 3.52; N, 9.89.

reactant | Hydrochloric acid | Cl | ClH
reactant | 4-[4-(6-chloro-1H-benzoimidazol-2-ylmethyl)-2-oxo-piperidin-1-ylmethyl]-benzonitrile | 0.336 mmol, 127 mg | ClC=1C=CC2=C(NC(=N2)CC2CC(N(CC2)CC2=CC=C(C#N)C=C2)=O)C1 | C21H19ClN4O
reactant | ammonia | N | H3N
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 15 mL | CO | CH4O
product | 4-[4-(6-Chloro-1H-benzoimidazol-2-ylmethyl)-2-oxo-piperidin-1-ylmethyl]-benzamidine | ClC=1C=CC2=C(NC(=N2)CC2CC(N(CC2)CC2=CC=C(C(=N)N)C=C2)=O)C1 | C21H22ClN5O
